### PR TITLE
[Merged by Bors] - feat(Set): API for subset restriction and coercion to/from subtypes

### PR DESCRIPTION
**Pull request by miguelmarco**
Api for subset restriction and coercion to/from subtypes

Co-authored-by: Miguel Marco <mmarco@unizar.es>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Subset.lean [hunk 1]
```diff
@@ -0,0 +1,346 @@
...
+variable {α β : Type u} {A B C: Set α} {D E : Set ↑A}
+variable {S : Set (Set α)} {T : Set (Set ↑A)} {i : β → Set α} {j : β → Set ↑A}
+
+namespace Subset
+
+/--
+Given two sets `A` and `B`, `set_restrict A B` is the set of `↑A` formed by the elements
+whose value is in `B`.
+-/
+def set_restrict (A B : Set α) : Set ↑A := restrict A B
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:57]: Should be camelCase per naming convention:
```suggestion
def setRestrict (A B : Set α) : Set ↑A := restrict A B
```

File: Mathlib/Data/Set/Subset.lean [hunk 2]
```diff
@@ -0,0 +1,346 @@
...
+
+/--
+`A ↓∩ B` denotes `restrict A B`.
+-/
+infixl:67 " ↓∩ "  => set_restrict
+
+@[simp]
+lemma mem_set_restrict_iff (x : A): x ∈  (A ↓∩ B) ↔ ↑x ∈ B := by rfl
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:65]:
```suggestion
lemma mem_setRestrict_iff (x : A): x ∈  (A ↓∩ B) ↔ ↑x ∈ B := by rfl
```
and similarly for the rest.

**Review by kmill — COMMENTED** [review]
I'll try to take a look later, but I just want to register my opinion that I think this notation is a neat idea.

Style note: I see a lot of places with an extra space character, like in `x ∈ (↑D : Set α)` for example. I wish we had an autoformatter for you, but you'll have to go through and find these.

File: Mathlib/Data/Set/Subset.lean [hunk 3]
```diff
@@ -0,0 +1,346 @@
...
+  · intro a
+    aesop_destruct_products
+    simp_all only [and_self, exists_const]
+  · intro a
+    aesop_destruct_products
+    simp_all only [exists_const, and_self]
+
+@[simp]
+lemma coe_compl : ↑(Dᶜ) = A \ ↑D := by
+  unhygienic ext
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:189]: At the end, all these `unhygienic` should be removed in favour of manually declared variable names.
```suggestion
  ext x
```

File: Mathlib/Data/Set/Subset.lean [hunk 4]
```diff
@@ -0,0 +1,346 @@
...
+
+lemma coe_empty : ↑(∅ : Set A)  = (∅ : Set α ) := image_empty _
+
+@[simp]
+lemma coe_union : (↑(D ∪ E) : Set α)  = ↑D ∪ ↑E := by
+  ext x
+  simp_all only [mem_union, mem_image, Subtype.exists, exists_and_right, exists_eq_right]
+  apply Iff.intro
+  · intro a
+    aesop_destruct_products
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:166]: Shorthand:
```suggestion
  · rintro ⟨a, ha⟩
```

File: Mathlib/Data/Set/Subset.lean (hunk 2 above)
Comment (kmill) [reply Mathlib/Data/Set/Subset.lean:65]: Along with some spacing style:
```suggestion
lemma mem_setRestrict_iff (x : A) : x ∈ (A ↓∩ B) ↔ ↑x ∈ B := by rfl
```

File: Mathlib/Data/Set/Subset.lean [hunk 5]
```diff
@@ -0,0 +1,346 @@
...
+    apply And.intro
+    exact left
+    simp_all only
+
+
+@[simp]
+lemma coe_iUnion : ↑(⋃ (B : β ), j B) = ⋃ (B : β), (j B : Set α) := image_iUnion
+
+@[simp]
+lemma coe_sInter (hT : ∃ L, L ∈ T) : (↑(⋂₀ T) : Set α) = ⋂₀ { (↑B : Set α) | B ∈ T}  := by
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:236]: Use `Set.Nonempty` so its associated API can be used.
```suggestion
lemma coe_sInter (hT : T.Nonempty) : (↑(⋂₀ T) : Set α) = ⋂₀ { (↑B : Set α) | B ∈ T}  := by
```

**Comment by winstonyin** [comment]
I gave some minor style comments. There are also some inconsistent white spaces, which we can deal with at the end. I merged master into this so I can test it on my recent commit; hope you don't mind.

**Comment by winstonyin** [comment]
Just tested it out. This is great and will make dealing with subtypes far less painful. For my use case, I need this API to also work with closure and continuity. I'd be happy to build on your work to make this happen if you don't plan on implementing these features.

File: Mathlib/Data/Set/Subset.lean [hunk 6]
```diff
@@ -0,0 +1,346 @@
...
+lemma set_restrit_compl : A ↓∩ Bᶜ = (A ↓∩ B)ᶜ  := by
+  apply Eq.refl
+
+lemma set_restrict_eq_univ_of_subset (h : A ⊆ B) : A ↓∩ B = univ := by
+  ext x
+  simp only [mem_set_restrict_iff, mem_univ, iff_true]
+  exact h x.2
+
+@[simp]
+lemma restrict_subset_restrict_iff: A ↓∩ B ⊆ A ↓∩ C ↔ A ∩ B ⊆ A ∩ C := by
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:94]:
```suggestion
lemma restrict_subset_restrict_iff: A ∩ B ⊆ A ∩ C ↔ A ↓∩ B ⊆ A ↓∩ C := by
```
My hunch is that this is the direction I want to go when I use this API, i.e. when I see that everything is intersected by the same set, I want to pass the problem down to the subtype topology. I also don't think this should be a `simp` lemma (in either direction), so that `simp` can be applied while we manually choose if we wish to "stay within the subtype".

File: Mathlib/Data/Set/Subset.lean [hunk 7]
```diff
@@ -0,0 +1,346 @@
...
+
+variable {α β : Type u} {A B C: Set α} {D E : Set ↑A}
+variable {S : Set (Set α)} {T : Set (Set ↑A)} {i : β → Set α} {j : β → Set ↑A}
+
+namespace Subset
+
+/--
+Given two sets `A` and `B`, `set_restrict A B` is the set of `↑A` formed by the elements
+whose value is in `B`.
+-/
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:56]: Is this analogous to `Subgroup.subgroupOf`? Can you add a lemma linking the too if so?

File: Mathlib/Data/Set/Subset.lean (hunk 1 above)
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:57]: I think this is probably a bad definition that's abusing `restrict`; I think
```suggestion
def set_restrict (A B : Set α) : Set ↑A := (↑) ⁻¹' B
```
would be more reasonable.

File: Mathlib/Data/Set/Subset.lean (hunk 6 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:94]: I see what you mean. I implemented it with a particular use case in mind (which is basically educational: I want this to be used by the students of my general topology course). In that case, I just want `simp` to "simplify the problem as much as possible", and checking if a set is contained in other sounds less painful in the ambient space.

But as you say, it could also make sense to leave it as a non-simp lemma, and maybe add an equivalent simp lemma at the beginning of my exercises for my student's convenience.

File: Mathlib/Data/Set/Subset.lean (hunk 7 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:56]: I think it is related, yes. However this doesn't deal with the group structure. So I am not sure how such a lemma would be like.

Maybe something like this?

```
example (G : Type) [Group G] (H K : Subgroup G) : 
    (Subgroup.comap (Subgroup.subtype K) H).carrier =  K.carrier ↓∩ H.carrier:= rfl
```

it is quite verbose.

File: Mathlib/Data/Set/Subset.lean (hunk 1 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: Fixed

File: Mathlib/Data/Set/Subset.lean (hunk 2 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: I think I fixed all of them.

File: Mathlib/Data/Set/Subset.lean (hunk 3 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: Fixed

File: Mathlib/Data/Set/Subset.lean (hunk 5 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: Done.

File: Mathlib/Data/Set/Subset.lean (hunk 1 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: Done.

File: Mathlib/Data/Set/Subset.lean (hunk 6 above)
Comment (kmill) [reply Mathlib/Data/Set/Subset.lean]: My own hunch is that this lemma is fine in the current direction, but it's not clear whether it should be a simp lemma.

My thinking is that it's *usually* better to avoid subtypes as much as possible, and so this lemma lets you leave the world of subtypes and go back to the "universe" type.

The reason it might not a good simp lemma is that it changes the types of the objects under consideration, and so `simp` might suddenly make a hypothesis no longer applicable. This isn't a hard "no" to it being a simp lemma, but it's worth thinking about.

Comment (winstonyin) [reply Mathlib/Data/Set/Subset.lean]: The direction of the lemma remains to be seen in actual applications, so I don’t have a strong opinion on that.

I am slightly more convinced this shouldn’t be `simp`, because I’d like `simp` to apply all relevant lemmas on the restricted subsets first (e.g. de Morgan), without taking me out of subtype world. I want to be the one to decide, “I’m done with subtype topology now; beam me back up”.

File: Mathlib/Data/Set/Subset.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Data/Set/Subset.lean]: I would expect something more like
```lean
example (G : Type) [Group G] (H K : Subgroup G) : 
    ↑(K.subgroupOf H) =  ↑K ↓∩ ↑H := rfl
```

File: Mathlib/Data/Set/Subset.lean (hunk 6 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: Would it make sense to be `aesop` instead of simp?

File: Mathlib/Data/Set/Subset.lean (hunk 7 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: I see. Sounds good, yes. I think that should be in the subgroup file rather than the subset.

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: I just added such a lemma in `Subgroup.Basic` .

File: Mathlib/Data/Set/Subset.lean (hunk 6 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: > The direction of the lemma remains to be seen in actual applications, so I don’t have a strong opinion on that.
> 
> I am slightly more convinced this shouldn’t be `simp`, because I’d like `simp` to apply all relevant lemmas on the restricted subsets first (e.g. de Morgan), without taking me out of subtype world. I want to be the one to decide, “I’m done with subtype topology now; beam me back up”.

From that point of view, it fits better in the direction of transforming expressions in the subtype to expressions in the ambient space.

File: Mathlib/Data/Set/Subset.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Data/Set/Subset.lean]: Thanks! Can you also edit the docstring of `subgroupOf` to mention that it is the subgroup version of this definition?

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: done!

File: Mathlib/Data/Set/Subset.lean [hunk 8]
```diff
@@ -0,0 +1,345 @@
...
+  · rintro h x ⟨hxA,hxB⟩
+    constructor
+    · exact hxA
+    · specialize h ?_
+      · exact ⟨x,hxA⟩
+      · exact hxB
+      exact h
+
+@[simp]
+lemma setRestrict_eq_iff : A ↓∩ B = A ↓∩ C ↔ A ∩ B = A ∩ C := by
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:109]: Like `restrict_subsetRestrict_iff`, this shouldn't be a `simp` lemma. I don't mind the direction of the `iff` too much, but it should at least be consistent with `restrict_subsetRestrict_iff`.
```suggestion
lemma setRestrict_eq_iff : A ↓∩ B = A ↓∩ C ↔ A ∩ B = A ∩ C := by
```

File: Mathlib/Data/Set/Subset.lean [hunk 9]
```diff
@@ -0,0 +1,345 @@
...
+/--
+Given two sets `A` and `B`, `setRestrict A B` is the set of `↑A` formed by the elements
+whose value is in `B`.
+-/
+def setRestrict (A B : Set α) : Set ↑A := (↑) ⁻¹' B
+
+/--
+`A ↓∩ B` denotes `restrict A B`.
+-/
+infixl:67 " ↓∩ "  => setRestrict
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:62]:
```suggestion
infixl:67 " ↓∩ " => setRestrict
```

File: Mathlib/Data/Set/Subset.lean [hunk 10]
```diff
@@ -0,0 +1,345 @@
...
+
+@[simp]
+lemma mem_setRestrict_iff (x : A) : x ∈  (A ↓∩ B) ↔ ↑x ∈ B := by rfl
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:65]:
```suggestion
lemma mem_setRestrict_iff (x : A) : x ∈ (A ↓∩ B) ↔ ↑x ∈ B := by rfl
```

File: Mathlib/Data/Set/Subset.lean [hunk 11]
```diff
@@ -0,0 +1,345 @@
...
+
+/-!
+# Subsets as subtypes
+
+This file defines the function `setRestrict` that converts sets in a type, to sets in a subtype
+(as the elements in the subtype whose lift lives in the set), and some notation and simplification
+lemmas for convenience.
+
+More precisely, given `α : Type` and `A : Set α`, `setRestrict A : Set α → Set A` takes
+some `B : Set α` and produces some `Set ↑A` whose elements are `{ x : ↑A | ↑x ∈ B}`.
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:18]:
```suggestion
some `B : Set α` and produces some `Set ↑A` whose elements are `{ x : ↑A | ↑x ∈ B }`.
```

File: Mathlib/Data/Set/Subset.lean [hunk 12]
```diff
@@ -0,0 +1,345 @@
...
+  simp_all only [mem_diff, mem_image, Subtype.exists, exists_and_right, exists_eq_right, not_exists]
+  apply Iff.intro
+  · intro a
+    cases a
+    simp_all only [exists_const, not_false_eq_true, forall_true_left, and_self]
+  · intro a
+    simp_all only [not_false_eq_true, and_true]
+
+@[simp]
+lemma coe_sUnion : ↑(⋃₀ T) = ⋃₀ { (B : Set α) | B ∈ T} := by
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:210]:
```suggestion
lemma coe_sUnion : ↑(⋃₀ T) = ⋃₀ { (B : Set α) | B ∈ T } := by
```

File: Mathlib/Data/Set/Subset.lean [hunk 13]
```diff
@@ -0,0 +1,345 @@
...
+  intro x hx
+  specialize h _
+  · exact ↑x
+  · simp only [mem_image, Subtype.exists, exists_and_right, exists_eq_right, Subtype.coe_eta, hx,
+    Subtype.coe_prop, exists_const]
+  simp only [mem_image, Subtype.exists, exists_and_right, exists_eq_right, Subtype.coe_eta,
+    Subtype.coe_prop, exists_const] at h
+  exact h
+
+/-
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:325]: So it shows up as a section header in the documentation.
```suggestion
/-!
```

File: Mathlib/Data/Set/Subset.lean [hunk 14]
```diff
@@ -0,0 +1,345 @@
...
+    simp_all only
+  · intro a
+    rcases a with ⟨_,⟨hT,⟨_,_⟩⟩⟩
+    simp_all only [exists_true_left]
+    apply Exists.intro
+    apply And.intro
+    exact hT
+    simp_all only
+
+
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:230]:
```suggestion

```

File: Mathlib/Data/Set/Subset.lean [hunk 15]
```diff
@@ -0,0 +1,345 @@
...
+  simp only [setRestrict_eq_iff,hB,hC] at h
+  exact h
+
+lemma restrict_mono (h : B ⊆ C) : A ↓∩ B ⊆ A ↓∩ C := by
+  simp only [← restrict_subsetRestrict_iff, subset_inter_iff, inter_subset_left, true_and]
+  apply subset_trans (inter_subset_right A B) h
+
+lemma mem_coe_iff (x : α) : x ∈ (↑D : Set α) ↔ ∃ y : ↑A, y ∈ D ∧ ↑y = x := by rfl
+
+/--
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:149]: So it shows up as section header in the documentation.
```suggestion
/-!
```

File: Mathlib/Data/Set/Subset.lean [hunk 16]
```diff
@@ -0,0 +1,345 @@
...
+  apply Eq.refl
+
+lemma setRestrict_eq_univ_of_subset (h : A ⊆ B) : A ↓∩ B = univ := by
+  ext x
+  simp only [mem_setRestrict_iff, mem_univ, iff_true]
+  exact h x.2
+
+lemma restrict_subsetRestrict_iff : A ∩ B ⊆ A ∩ C ↔ A ↓∩ B ⊆ A ↓∩ C := by
+  constructor
+  · rintro h ⟨x,hxA⟩ hx
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:95]:
```suggestion
  · rintro h ⟨x, hxA⟩ hx
```
and many more places after this.

File: Mathlib/Data/Set/Subset.lean (hunk 14 above)
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:230]:
```suggestion
  constructor
  · rintro ⟨hxA, D, hDT, hxD⟩
    exact ⟨D, hDT, hxA, hxD⟩
  · rintro ⟨D, hDT, hxA, hxD⟩
    exact ⟨hxA, D, hDT, hxD⟩

```

File: Mathlib/Data/Set/Subset.lean [hunk 17]
```diff
@@ -0,0 +1,345 @@
...
+lemma setRestrict_eq_iff : A ↓∩ B = A ↓∩ C ↔ A ∩ B = A ∩ C := by
+  simp only [subset_antisymm_iff,← restrict_subsetRestrict_iff, subset_inter_iff,
+    inter_subset_left, true_and]
+
+@[simp]
+lemma setRestrict_diff : A ↓∩ (B \ C) = (A ↓∩ B) \ (A ↓∩ C) := by
+  apply Eq.refl
+
+@[simp]
+lemma setRestrict_sUnion : A ↓∩ (⋃₀ S) = ⋃₀ {(A ↓∩ B) | B ∈ S} := by
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:118]: Just for consistency
```suggestion
lemma setRestrict_sUnion : A ↓∩ (⋃₀ S) = ⋃₀ { (A ↓∩ B) | B ∈ S } := by
```

File: Mathlib/Data/Set/Subset.lean [hunk 18]
```diff
@@ -0,0 +1,345 @@
...
+  ext x
+  simp only [mem_iUnion, mem_setRestrict_iff]
+
+@[simp]
+lemma setRestrict_iInter : A ↓∩ (⋂ (B : β), i B) = ⋂ (B : β), A ↓∩ i B := by
+  ext x
+  simp only [mem_iInter, mem_setRestrict_iff]
+
+@[simp]
+lemma setRestrict_sInter : A ↓∩ (⋂₀ S) = ⋂₀ {(A ↓∩ B) | B ∈ S} := by
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:133]:
```suggestion
lemma setRestrict_sInter : A ↓∩ (⋂₀ S) = ⋂₀ { (A ↓∩ B) | B ∈ S } := by
```

File: Mathlib/Data/Set/Subset.lean [hunk 19]
```diff
@@ -0,0 +1,345 @@
...
+  apply Iff.intro
+  · intro a
+    cases a
+    simp_all only [exists_true_left]
+  · intro a
+    cases' a with h h
+    · cases h
+      simp_all only [true_or, exists_const]
+    · cases h
+      simp_all only [or_true, exists_const]
```
Comment (winstonyin) [inline Mathlib/Data/Set/Subset.lean:172]: Small golf, cleanup
```suggestion
  constructor
  · rintro ⟨ha, ha'⟩
    simp_all only [exists_true_left]
  · intro ha
    rcases ha with ⟨a, ha⟩ | ⟨a, ha⟩
    · exact ⟨a, Or.inl ha⟩
    · exact ⟨a, Or.inr ha⟩
```

**Comment by miguelmarco** [comment]
Thanks for the through review. I think I fixed everything that you mentioned.

**Comment by winstonyin** [comment]
I made a few stylistic changes (e.g. adding spaces) and shorted some proofs using `rintro`. Looks good to me unless anybody else has further comments.

**Comment by miguelmarco** [comment]
Looks good to me. One cuestion: why is `constructor` preferable over `apply Iff.intro`?

**Comment by miguelmarco** [comment]
> I made a few stylistic changes (e.g. adding spaces) and shorted some proofs using `rintro`. Looks good to me unless anybody else has further comments.

Does it mean that I can set it to positive review?

**Comment by winstonyin** [comment]
> Looks good to me. One cuestion: why is `constructor` preferable over `apply Iff.intro`?

`constructor` is a quite general tactic, whereas for the latter, you'd have to name the appropriate structure `Iff.intro`, `And.intro`, which to me feels too low-level, reaching into the implementation details. It's mostly a matter of personal taste, but I think if there's a general tactic that does the same thing as a number of individual lemmas, we should use the general tactic. An analogy would be `ext`, which could instead be a differently named extensionality lemma for each kind of structure you're dealing with; we prefer the former.

**Comment by winstonyin** [comment]
> Does it mean that I can set it to positive review?

Yes, the review from me is positive, but I'm not sure what it means to set it to a positive review. I would like to see this merged soon, so I can extend this API to `closure` and `continuous` (or perhaps you plan to do so?).

File: Mathlib/Data/Set/Subset.lean [hunk 20]
```diff
@@ -0,0 +1,324 @@
...
+variable {α β : Type u} {A B C: Set α} {D E : Set ↑A}
+variable {S : Set (Set α)} {T : Set (Set ↑A)} {i : β → Set α} {j : β → Set ↑A}
+
+namespace Subset
+
+/--
+Given two sets `A` and `B`, `setRestrict A B` is the set of `↑A` formed by the elements
+whose value is in `B`.
+-/
+def setRestrict (A B : Set α) : Set ↑A := (↑) ⁻¹' B
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:57]: Just to draw attention to other reviewers; `Subset.setRestrict` feels like a weird name here, because `Subset` is not a namespace that previously existed, and if `Set.Subset` was intended, this is a type that isn't mentioned at all in this definition.

**Comment by miguelmarco** [comment]
I set it to "ready to merge". I think a bot should take care of it from here.

File: Mathlib/Data/Set/Subset.lean (hunk 20 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:57]: What would be your proposal?

Comment (winstonyin) [reply Mathlib/Data/Set/Subset.lean:57]: That's a good point. In mathlib, `subset` is usually a verb that means `⊆`, rather than referring to the subtype. I'm open to a name change in a future PR.

Comment (eric-wieser) [reply Mathlib/Data/Set/Subset.lean:57]: Maybe `Set.restrictTo`? `Set.setOf` would match `Subgroup.subgroupOf`, but that's pretty confusing given that `setOf` already exists. Perhaps Zulip or some other reviewers have some ideas

Comment (winstonyin) [reply Mathlib/Data/Set/Subset.lean:57]: How's `Set.restrictSet`? It suggests it's a specialisation or alternative version of `Set.restrict` for `Set`, which is how it was defined initially anyway.

**Comment by eric-wieser** [comment]
@miguelmarco, I'm afraid that's not quite how this works; that label is managed by a bot. You can read more about [the PR lifecycle here](https://leanprover-community.github.io/contribute/index.html#lifecycle-of-a-pr).

**Comment by miguelmarco** [comment]
I see. So, how is the PR approved?

File: Mathlib/Data/Set/Subset.lean (hunk 20 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:57]: So, the namespace should be `Set.restrictSet`?

**Comment by winstonyin** [comment]
A mathlib maintainer will ask the bot to merge when the PR is deemed ready. I'm just reviewing as a user. I'm not a maintainer.

File: Mathlib/Data/Set/Subset.lean (hunk 20 above)
Comment (winstonyin) [reply Mathlib/Data/Set/Subset.lean:57]: The namespace could still be just `Set`, if the lemma names indicate the use of `restrictSet`. There's a benefit that if the first argument of the lemma is a `(s : Set X)`, then you can write `s.lemma_about_restrictSet` exploiting the dot notation. Let me start a Zulip thread about this.

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:57]: Following Yaël's comment in Zulip, I tried changing the definition into a notation:

```lean
notation A:67 " ↓∩ " B:67  => ((↑) ⁻¹' B : Set A)
```

It works, and even make several theorems redundant with what there is already for preimages. However, the infoview doesn't show the notation `A  ↓∩  B` but `Subtype.val ⁻¹' B` instead. I am trying to write a pretty printer for that... but can't really figure out how to do it.

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: I finally figured out how to make it work as a notation. Some lemmas became redundant, so i removed them.

Now I am not sure about how to name the file and/or namespace. Any ideas?

File: Mathlib/Data/Set/Subset.lean [hunk 21]
```diff
@@ -0,0 +1,270 @@
...
+
+variable {α β : Type u} {A B C: Set α} {D E : Set ↑A}
+variable {S : Set (Set α)} {T : Set (Set ↑A)} {i : β → Set α} {j : β → Set ↑A}
+
+namespace Subset
+
+/--
+Given two sets `A` and `B`, `A ↓∩ B` denotes `((↑) ⁻¹' B : Set A)`.
+-/
+scoped notation A:67 " ↓∩ " B:67  => ((↑) ⁻¹' B : Set A)
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:44]: Just to check, do we want the following to work?
```lean
variable (X : Set ℤ) (Y : Set ℕ)
#check Y ↓∩ X -- gives a Set Y
```
My first reaction is that we should try to lock the notation down more to be just for subtypes, but I'm not completely sure.

I've found that the following works to lock it down, and it also generates a delaborator for you.
```lean
scoped notation3 A:67 " ↓∩ " B:67 => (Subtype.val ⁻¹' B : Set (A : Set _))
```

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:44]: Good catch! No, I don't think we should allow `A` and `B` being of different types.

So... `notation3` works just as `notation` but produces a delaborator too?

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:44]: I see the docstring of `notation3` warns about its uncertain future. Would it be a good idea to keep it?

Comment (kmill) [reply Mathlib/Data/Set/Subset.lean:44]: `notation3` might have an uncertain future, but there will definitely be a future for the features it provides, and in any case there are no concrete plans to deprecate it. I hope to get `notation` to be able to generate a delaborator too one day.

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: I see. I pushed a commit with your suggestion.

I also changed the names of the lemmas to `preimage_val_...` since that is the underlying type now. 

Still unsure on what the namespace (and file) should be called.

**Comment by miguelmarco** [comment]
ping @kmill @winstonyin

File: Mathlib/Data/Set/Subset.lean [hunk 22]
```diff
@@ -0,0 +1,260 @@
...
+
+universe u
+
+variable {α β : Type u} {A B C: Set α} {D E : Set ↑A}
+variable {S : Set (Set α)} {T : Set (Set ↑A)} {i : β → Set α} {j : β → Set ↑A}
+
+namespace Subset
+
+/--
+Given two sets `A` and `B`, `A ↓∩ B` denotes `{x : ↑A | ↑x ∈ B}`.
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:42]:
```suggestion
Given two sets `A` and `B`, `A ↓∩ B` denotes the intersection of `A` and `B`
as a set in `Set A`.

The notation is short for `((↑) ⁻¹' B : Set ↑A)`, while giving hints to the elaborator
that both `A` and `B` are terms of `Set α` for the same `α`.
This set is the same as `{x : ↑A | ↑x ∈ B}`.
```

File: Mathlib/Data/Set/Subset.lean [hunk 23]
```diff
@@ -0,0 +1,260 @@
...
+/--
+Sets of a subtype coerced to the ambient type are denoted with `↑`.
+-/
+@[scoped delab app.Set.image]
+def delab_set_image_subtype : Delab := do
+  let #[α, _, f, _] := (← getExpr).getAppArgs | failure
+  guard <| f.isAppOfArity ``Subtype.val 2
+  let some _ := α.coeTypeSet? | failure
+  let e ← withAppArg delab
+  `(↑$e)
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:56]: This delaborator should go right after the `CoeHead (Set s) (Set α)` instance in `Mathlib/Data/Set/Functor.lean`. I don't think it needs to be `scoped`, given that the coercion instance isn't scoped. (Make sure to move the `Mathlib.Lean.Expr.ExtraRecognizers` import.)

Could you update the docstring to mention that this is the delaborator for the `CoeHead (Set s) (Set α)` instance?

File: Mathlib/Data/Set/Subset.lean [hunk 24]
```diff
@@ -0,0 +1,260 @@
...
+a subtype, lifted up to sets in the ambient type.
+
+It also provides some related lemmas for convenience.
+
+## Notation
+
+Let `α` be a `Type`, `A B : Set α` two sets in `α`, and `C : Set ↑A` a set in the subtype `↑A`.
+
+- `A ↓∩ B` denotes `(Subtype.val ⁻¹' B : Set A)` (that is, `{x : ↑A | ↑x ∈ B}`).
+- `↑C` denotes `Subtype.val '' C` (that is, `{x : α | ∃ y ∈ C, ↑y = x}`).
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:23]: You don't need to mention this notation, since the arrow is coming from a CoeHead instance in another file. You could move this explanation to that file's module doc.

It would be good to mention over there in the module doc and the coercion that there are lemmas about it in `Mathlib.Data.Set.Subset`.

File: Mathlib/Data/Set/Subset.lean [hunk 25]
```diff
@@ -0,0 +1,260 @@
...
+## Tags
+
+subsets
+-/
+
+open Set
+
+universe u
+
+variable {α β : Type u} {A B C: Set α} {D E : Set ↑A}
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:36]:
```suggestion
variable {α β : Type u} {A B C : Set α} {D E : Set ↑A}
```
Note: you can write `Set A` instead of `Set ↑A`. It's more common to rely on the auto-inserted coercion. No need to change it though, just mentioning it.

File: Mathlib/Data/Set/Subset.lean [hunk 26]
```diff
@@ -0,0 +1,260 @@
...
+It also provides some related lemmas for convenience.
+
+## Notation
+
+Let `α` be a `Type`, `A B : Set α` two sets in `α`, and `C : Set ↑A` a set in the subtype `↑A`.
+
+- `A ↓∩ B` denotes `(Subtype.val ⁻¹' B : Set A)` (that is, `{x : ↑A | ↑x ∈ B}`).
+- `↑C` denotes `Subtype.val '' C` (that is, `{x : α | ∃ y ∈ C, ↑y = x}`).
+
+To access this notation, type `open Subset`.
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:25]: I think this should all be in the `Set` namespace rather than this new `Subset` namespace. Could you change `namespace Subset` to `namespace Set`?

It's defensible putting your notation into a special notation namespace. Let's put `scoped notation3` in the `Set.Notation` namespace. That way, you can do `open Set.Notation` to get this extra notation. I think a convenient syntax you can use for this is `scoped[Set.Notation] notation3 ...` rather than wrapping it in a namespace.

```suggestion
This notation is scoped to the `Set.Notation` namespace.
To enable it, use `open scoped Set.Notation`.
```

File: Mathlib/Data/Set/Subset.lean [hunk 27]
```diff
@@ -0,0 +1,260 @@
...
+
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:26]:
```suggestion

## Naming conventions

Theorem names refer to `↓∩` as `preimage_val`.

```

File: Mathlib/Data/Set/Subset.lean [hunk 28]
```diff
@@ -0,0 +1,260 @@
...
+import Mathlib.Data.Set.Functor
+import Mathlib.Lean.Expr.ExtraRecognizers
+
+/-!
+# Sets in subtypes
+
+This file defines notation for sets in a type pulled down to sets in a subtype, and sets in
+a subtype, lifted up to sets in the ambient type.
+
+It also provides some related lemmas for convenience.
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:16]:
```suggestion
This file is about sets in `Set A` when `A` is a set.

It defines notation `↓∩` for sets in a type pulled down to sets in a subtype, as an inverse operation to the coercion that lifts sets in
a subtype up to sets in the ambient type.

This module also provides lemmas for `↓∩` and this coercion.
```

File: Mathlib/Data/Set/Subset.lean [hunk 29]
```diff
@@ -0,0 +1,260 @@
...
+    intro i_1
+    cases a
+    simp_all only [exists_const]
+  · intro h
+    simp only [mem_iInter, mem_image, Subtype.exists, exists_and_right, exists_eq_right] at h
+    cases' h b with hxA hx
+    simp_all only [exists_true_left, mem_image, mem_iInter, Subtype.exists, exists_and_right,
+      exists_eq_right, implies_true, exists_const]
+
+lemma coe_contained : ↑D ⊆ A := by
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:209]: `coe_subset`? I'm not sure, but `contained` isn't following the mathlib naming convention.

File: Mathlib/Data/Set/Subset.lean [hunk 30]
```diff
@@ -0,0 +1,260 @@
...
+@[simp]
+lemma cou_inter_self_right_eq_coe : A ∩ ↑D = ↑D := by
+  simp only [inter_eq_right, image_subset_iff, Subtype.coe_preimage_self, subset_univ]
+
+@[simp]
+lemma coe_inter_self_left_eq_coe : ↑D ∩ A = ↑D := by
+  simp only [inter_eq_left, image_subset_iff, Subtype.coe_preimage_self, subset_univ]
+
+@[simp]
+lemma coe_contained_iff : D ⊆ Subtype.val ⁻¹' ↑E ↔ D ⊆ E := by
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:229]: Maybe
```suggestion
lemma subset_preimage_val_iff : D ⊆ Subtype.val ⁻¹' ↑E ↔ D ⊆ E := by
```
And can you use your `↓∩` here?

File: Mathlib/Data/Set/Subset.lean [hunk 31]
```diff
@@ -0,0 +1,260 @@
...
+
+@[simp]
+lemma coe_eq_iff : (D : Set α) = ↑E ↔ D = E := by
+  simp only [subset_antisymm_iff, image_subset_iff, coe_contained_iff]
+
+lemma coe_inj (h : (↑D : Set α) = ↑E) : D = E := by
+  rw [coe_eq_iff] at h
+  exact h
+
+lemma coe_mono (h : (↑D : Set α) ⊆ ↑E) : D ⊆ E := by
```
Comment (kmill) [inline Mathlib/Data/Set/Subset.lean:250]: I think `coe_mono` would normally be for the converse implication. Maybe this is `subset_of_coe_subset_coe`?

Could you add `coe_mono` and tag it with the `@[mono]` attribute?

**Review by kmill — COMMENTED** [review]
I think we're getting close to merging, if not after this round of review, then hopefully the next one!

File: Mathlib/Data/Set/Subset.lean (hunk 20 above)
Comment (kmill) [reply Mathlib/Data/Set/Subset.lean]: I'm not sure what the name of the module should be. Perhaps `Mathlib.Data.Set.Subtype`?

File: Mathlib/Data/Set/Subset.lean (hunk 23 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:56]: Eric Wieser [commented ](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Should.20Sets.20be.20coerced.3F/near/417208299) that not having this delaborator working by default could be a feature, since it could help realising what kind of lemmas one should search for.

That is why I decided to keep this delaborator scoped.

File: Mathlib/Data/Set/Subset.lean (hunk 29 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:209]: `coe_subset` is already defined. I propose `coe_of_subtype_set_subset`.

**Comment by miguelmarco** [comment]
I just pushed some changes. There are a couple of things that I would like to discuss before changing them.

File: Mathlib/Data/Set/Subset.lean (hunk 26 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: I didn't find a way to scope the delaborator, so I wrapped it and the notation in a namespace.

File: Mathlib/Data/Set/Subset.lean [hunk 32]
```diff
@@ -0,0 +1,280 @@
...
+      exact h
+  · rintro h ⟨x, hxA⟩ hx
+    specialize h ?_
+    · exact x
+    · exact ⟨hxA, hx⟩
+    exact h.2
+
+lemma preimage_val_eq_iff : A ↓∩ B = A ↓∩ C ↔ A ∩ B = A ∩ C := by
+  simp only [subset_antisymm_iff, preimage_val_subset_preimage_val_iff, subset_inter_iff,
+    inter_subset_left, true_and]
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:98]: A shorter proof
```suggestion
  rw [Subtype.preimage_val_eq_preimage_val_iff, inter_comm _ A, inter_comm _ A]
```
This lemma is almost identical to the existing one

File: Mathlib/Data/Set/Subset.lean [hunk 33]
```diff
@@ -0,0 +1,280 @@
...
+
+lemma preimage_val_sUnion : A ↓∩ (⋃₀ S) = ⋃₀ { (A ↓∩ B) | B ∈ S } := by
+  ext x
+  simp only [preimage_sUnion, mem_iUnion, mem_preimage, exists_prop, mem_sUnion, mem_setOf_eq,
+    exists_exists_and_eq_and]
+
+@[simp]
+lemma preimage_val_iInter : A ↓∩ (⋂ (B : β), i B) = ⋂ (B : β), A ↓∩ i B := by
+  exact preimage_iInter
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:107]:
```suggestion
lemma preimage_val_iInter : A ↓∩ (⋂ (B : β), i B) = ⋂ (B : β), A ↓∩ i B :=
  preimage_iInter
```

File: Mathlib/Data/Set/Subset.lean [hunk 34]
```diff
@@ -0,0 +1,280 @@
...
+
+lemma preimage_val_sInter : A ↓∩ (⋂₀ S) = ⋂₀ { (A ↓∩ B) | B ∈ S } := by
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:109]: I think this should be proven for the case of a general preimage, since the proof doesn't mention `val`.

File: Mathlib/Data/Set/Subset.lean [hunk 35]
```diff
@@ -0,0 +1,280 @@
...
+lemma coe_union : (↑(D ∪ E) : Set α) = ↑D ∪ ↑E := by
+  ext x
+  simp only [mem_union, mem_image, Subtype.exists, exists_and_right, exists_eq_right]
+  constructor
+  · rintro ⟨_⟩
+    simp_all only [exists_true_left]
+  · intro ha
+    rcases ha with ⟨a, ha⟩ | ⟨a, ha⟩
+    · exact ⟨a, Or.inl ha⟩
+    · exact ⟨a, Or.inr ha⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:139]:
```suggestion
lemma coe_union : (↑(D ∪ E) : Set α) = ↑D ∪ ↑E := image_union _ _ _
```

File: Mathlib/Data/Set/Subset.lean [hunk 36]
```diff
@@ -0,0 +1,280 @@
...
+
+@[simp]
+lemma coe_inter : (↑(D ∩ E) : Set α) = ↑D ∩ ↑E := by
+  ext
+  simp_all only [mem_inter_iff, mem_image, Subtype.exists, exists_and_right, exists_eq_right]
+  constructor
+  · rintro ⟨_⟩
+    simp_all only [and_self, exists_const]
+  · rintro ⟨⟨_⟩, ⟨_⟩⟩
+    simp_all only [exists_const, and_self]
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:149]:
```suggestion
lemma coe_inter : (↑(D ∩ E) : Set α) = ↑D ∩ ↑E := image_inter Subtype.val_injective
```

File: Mathlib/Data/Set/Subset.lean [hunk 37]
```diff
@@ -0,0 +1,280 @@
...
+
+@[simp]
+lemma coe_diff : (↑(D \ E) : Set α) = ↑D \ ↑E := by
+  ext
+  simp_all only [mem_diff, mem_image, Subtype.exists, exists_and_right, exists_eq_right, not_exists]
+  constructor
+  · rintro ⟨_⟩
+    simp_all only [exists_const, not_false_eq_true, forall_true_left, and_self]
+  · intro
+    simp_all only [not_false_eq_true, and_true]
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:170]:
```suggestion
lemma coe_diff : (↑(D \ E) : Set α) = ↑D \ ↑E := image_diff Subtype.val_injective _ _
```

File: Mathlib/Data/Set/Subset.lean [hunk 38]
```diff
@@ -0,0 +1,280 @@
...
+  · intro a
+    simp_all only [mem_image, mem_iInter, Subtype.exists, exists_and_right, exists_eq_right]
+    intro i_1
+    cases a
+    simp_all only [exists_const]
+  · intro h
+    simp only [mem_iInter, mem_image, Subtype.exists, exists_and_right, exists_eq_right] at h
+    cases' h b with hxA hx
+    simp_all only [exists_true_left, mem_image, mem_iInter, Subtype.exists, exists_and_right,
+      exists_eq_right, implies_true, exists_const]
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:223]:
```suggestion
@[simp]
lemma coe_iInter [Nonempty β] : (↑(⋂ (B : β), j B) : Set α) = ⋂ (B : β), (↑(j B) : Set α) :=
  (Subtype.val_injective.injOn _).image_iInter_eq
```

**Review by eric-wieser — COMMENTED** [review]
I think there are still a lot of results here that are trivial special cases of existing lemmas about `preimage` and `image`. I've made suggestions for the obvious ones.

For some of the others, this might actually be indicative that we are missing lemmas about `image`/`preimage`, and you should be writing those more general lemmas instead!

File: Mathlib/Data/Set/Subset.lean (hunk 34 above)
Comment (eric-wieser) [reply Mathlib/Data/Set/Subset.lean:109]: (or maybe we should just have a lemma that says `⋂₀ { f B | B ∈ S } = ⋂ B ∈ S, f B`, since the latter is the preferred spelling)

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:107]: You mean for arbitrary `f : Set α → Set β` ?

File: Mathlib/Data/Set/Subset.lean (hunk 23 above)
Comment (kmill) [reply Mathlib/Data/Set/Subset.lean:68]: Ok, that's fine. I think we should still move it to be close to the `CoeHead` instance. The module doc in this file can still mention the notation and `Mathlib.Data.Set.Functor` for discoverability.

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: I moved the notation to `Mathlib.Data.Set.Functor`, but I am not sure if the documentation is clear enough now.

File: Mathlib/Data/Set/Functor.lean [hunk 39]
```diff
@@ -115,6 +116,23 @@ We define this coercion here.  -/
 /-- Coercion using `(Subtype.val '' ·)` -/
 instance : CoeHead (Set s) (Set α) := ⟨fun t => (Subtype.val '' t)⟩
 
+namespace Set.Notation
```
Comment (kmill) [inline Mathlib/Data/Set/Functor.lean:119]: Since we're in the `Set` namespace already, we need
```suggestion
namespace Notation
```

File: Mathlib/Data/Set/Subset.lean (hunk 34 above)
Comment (kmill) [reply Mathlib/Data/Set/Subset.lean:96]: I think this lemma is fine to have, at least to specialize the notation and for discoverability.

@eric-wieser `Set.preimage_sInter` is that general lemma.

I guess the question is whether the RHS should instead be `⋂ B ∈ S, (A ↓∩ B)`. That way the proof of this lemma would be exactly `Set.preimage_sInter`.

**Review by kmill — COMMENTED** [review]
For `coe` lemmas, I'm thinking we should name them all using `image_val` instead of `coe`.

For example, in `Mathlib.Data.Set.Functor`, there's `Set.image_val_subset` already for your `Set.coe_of_subtype_set_subset`. (Naming note: `of_...` is supposed to be how you refer to arguments to a lemma, so `of_subset` in this context is nonstandard.)

What do you think @eric-wieser and @miguelmarco ?

File: Mathlib/Data/Set/Subset.lean (hunk 34 above)
Comment (eric-wieser) [reply Mathlib/Data/Set/Subset.lean:96]: > I guess the question is whether the RHS should instead be `⋂ B ∈ S, (A ↓∩ B)`. That way the proof of this lemma would be exactly `Set.preimage_sInter`.

I think the RHS should indeed be changed (here and elsewhere)

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:95]: So the general idea is to avoid `⋂₀` in general, and change it to `⋂` (and same for unions)? 

I have the opinion that it is nice to have lemmas that allow one to rewrite expressions with `⋂₀`  into other expressions with `⋂₀`, without converting them into `⋂`. It reflects better some of the arguments we use on paper.

As @kmill commented, there is already a lemma that gives the other equality.

**Comment by miguelmarco** [comment]
I changed `coe` to `image_val` in the names of the lemmas as suggested. I also tried to get rid of the nonstandard `of`.

File: Mathlib/Data/Set/Subset.lean (hunk 34 above)
Comment (eric-wieser) [reply Mathlib/Data/Set/Subset.lean:95]: > I have the opinion that it is nice to have lemmas that allow one to rewrite expressions with `⋂₀` into other expressions with `⋂₀`, without converting them into `⋂`. It reflects better some of the arguments we use on paper.

If you feel strongly about this, then the resolution would be to change `Set.preimage_sInter` to have this statement instead of the current one (in a separate PR, and after discussion on zulip). We should try to avoid making difference choices to the same question in different files.

If we really were to change it, I'd argue that the RHS of the lemma should be `⋂₀ ((A ↓∩ .) '' S)` since that's the canonical spelling of a set image.

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:95]: what do you think @kmill ?

File: Mathlib/Data/Set/Subset.lean [hunk 40]
```diff
@@ -0,0 +1,198 @@
...
+## Tags
+
+subsets
+-/
+
+open Set
+
+universe u
+
+variable {α β : Type u} {A B C : Set α} {D E : Set A}
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:44]:
```suggestion
variable {α β : Type*} {A B C : Set α} {D E : Set A}
```
These should live in different universes

File: Mathlib/Data/Set/Subset.lean [hunk 41]
```diff
@@ -0,0 +1,171 @@
...
+  simp only [← inter_eq_right] at hB hC
+  simp only [preimage_val_eq_iff, hB, hC] at h
+  exact h
+
+/-!
+The following simp lemmas try to transform operations in the subtype into operations in the ambient
+type, if possible.
+-/
+
+lemma image_val_univ : ↑(univ : Set A) = A := Subtype.coe_image_univ A
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:94]: In golfing this proof, I found that this lemma already exists; so probably it should be removed.

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:94]: I think you are right. And also `image_val_subset_set `

File: Mathlib/Data/Set/Subset.lean [hunk 42]
```diff
@@ -0,0 +1,170 @@
...
+@[simp]
+lemma image_val_inter_self_left_eq_coe : ↑D ∩ A = ↑D :=
+  inter_eq_left.2 image_val_subset
+
+@[simp]
+lemma subset_preimage_val_image_val_iff : D ⊆ A ↓∩ ↑E ↔ D ⊆ E := by
+  rw [preimage_image_eq _ Subtype.val_injective]
+
+@[simp]
+lemma image_val_eq_iff : (D : Set α) = ↑E ↔ D = E := Subtype.val_injective.image_injective.eq_iff
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:152]: Convention is to call this lemma `image_val_inj`

File: Mathlib/Data/Set/Subset.lean [hunk 43]
```diff
@@ -0,0 +1,170 @@
...
+
+lemma image_val_inj (h : (↑D : Set α) = ↑E) : D = E := Subtype.val_injective.image_injective h
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:154]: This one should probably be stated via `Function.Injective` and called `image_val_injective`

File: Mathlib/Data/Set/Subset.lean (hunk 42 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:152]: shouldn't that be for only one direction of the implication?

Comment (eric-wieser) [reply Mathlib/Data/Set/Subset.lean:152]: No, [the naming convention says](https://leanprover-community.github.io/contribute/naming.html#injectivity) that `inj` is for the `iff`.

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: Done.

File: Mathlib/Data/Set/Subset.lean [hunk 44]
```diff
@@ -0,0 +1,168 @@
...
+
+namespace Set
+
+open Notation
+
+lemma preimage_val_eq_univ_of_subset (h : A ⊆ B) : A ↓∩ B = univ := by
+  rw [eq_univ_iff_forall, Subtype.forall]
+  exact h
+
+lemma preimage_val_subset_preimage_val_iff : A ↓∩ B ⊆ A ↓∩ C ↔ A ∩ B ⊆ A ∩ C := by
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:66]: I'd argue we should state this as
```suggestion
lemma preimage_val_subset_preimage_val_iff : A ↓∩ B ⊆ A ↓∩ C ↔ B ∩ A ⊆ C ∩ A := by
```
because this matches the direction of `Subtype.image_preimage_coe`.
Alternatively, we could flip `Subtype.image_preimage_coe` and related lemmas to match.

File: Mathlib/Data/Set/Subset.lean [hunk 45]
```diff
@@ -0,0 +1,168 @@
...
+  rw [inter_comm A, inter_comm A, ← Subtype.image_preimage_coe, ← Subtype.image_preimage_coe,
+    image_subset_image_iff Subtype.val_injective]
+
+lemma preimage_val_eq_iff : A ↓∩ B = A ↓∩ C ↔ A ∩ B = A ∩ C := by
+  rw [Subtype.preimage_val_eq_preimage_val_iff, inter_comm _ A, inter_comm _ A]
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Subset.lean:71]: With my suggestion above to flip the `∩` either here or in other files, this lemma becomes a duplicate of `Subtype.preimage_val_eq_preimage_val_iff`

File: Mathlib/Data/Set/Subset.lean (hunk 44 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:66]: In my initial implementation, I actually used the notation `B ↓∩ A` (as in meaning, "`B` is pulled down to `A`), and hence, this kind of results matched other existing results. With that notation, it totally made sense to use the expression you mention.

By @winstonyin suggestion I changed the notation, and then I am not so sure (It is kind of nice to "just change  `B ↓∩ A` to  `B ∩ A` ").

Comment (kmill) [reply Mathlib/Data/Set/Subset.lean:66]: I think whatever the notation, [`Subtype.preimage_val_eq_preimage_val_iff`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Image.html#Subtype.preimage_val_eq_preimage_val_iff) should be changed if needed to have the sensible order (I don't think `A ↓∩ B ⊆ A ↓∩ C ↔ B ∩ A ⊆ C ∩ A` is sensible). I would prefer `s ∩ t = s ∩ t` because prefix operators are more common than postfix operators, and I'm seeing `(s ∩ .)` as a prefix operator.

I had suggested the current meaning of `A ↓∩ B`. Here are the options:

* Use `A ↓∩ B` to mean "an intersection down to the subtype for `A`". I suggested this because I am seeing this as a prefix operator `(A ↓∩ .)` where `A` is configuration for the operator (it sets the type of the result too).

* Use `B ↓∩ A` to mean "an intersection with `A` where `B` is pulled down to `A`". If this notation is like a type-ascription-based-coercion, then it has some parallel with `(. : Set A)` for the inverse operation, assuming that would trigger a coercion (though prefix arrow is also the inverse operation). (This is a matter of taste, but I would find the arrow on the other side to be easier to read, as in `B ∩↓ A`, but again, that's just personal taste.)

File: Mathlib/Data/Set/Subset.lean (hunk 34 above)
Comment (kmill) [reply Mathlib/Data/Set/Subset.lean:80]: Would it make sense to have both? Call this variant `preimage_val_sInter_eq_sInter`?

File: Mathlib/Data/Set/Subset.lean (hunk 44 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:66]: I do agree that the down arrow is better placed in the side of the set that acts as subtype (that is, the place where you are "going down" to.

Your argument about prefearing a prefix operator makes sense.... but then we get that `preimage_val_subset_preimage_val_iff` will either have a weird change of order in the statment, or go in a different direction that `Subtype.image_preimage_coe`.

So, I see the following possible options:

1. Leave it as it is: a prefix operator, with statements that respect the sides of the intersections. The bad part is that it doesn't match `Subtype.image_preimage_coe`.
2. Change the statement so it matches `Subtype.image_preimage_coe`, as @eric-wieser  suggests. The problem with that option is that we get the weird change of order in the operands in the statement.
3. Change the notation to `B ∩↓ A`. That solves both the inconsistencies with  `Subtype.image_preimage_coe` and the order of operands. The problem here would be it is a postfix operator.
4. Change the definition of `Subtype.image_preimage_coe`. That could be quite messy, since many results in mathlib depend on it.

My vote would go to 1 or 3. I personally don't like much 2. and 4. means opening a can of worms that i would rather not deal with.

Comment (kmill) [reply Mathlib/Data/Set/Subset.lean:66]: For what it's worth, I don't see any reason `Subtype.image_preimage_coe` needs to be in its current form, and changing it (later) to `((↑) : s → α) '' (((↑) : s → α) ⁻¹' t) = s ∩ t` seems perfectly fine (and maybe better?). I'm through half of mathlib so far testing out the changes.

File: Mathlib/Data/Set/Subset.lean (hunk 34 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:80]: I just added it.

File: Mathlib/Data/Set/Subset.lean (hunk 44 above)
Comment (kmill) [reply Mathlib/Data/Set/Subset.lean:66]: #10433 does this change.

Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:66]: So, since some proofs in this PR would be affected by that change, shall we include that PR as a dependency for this one? Or just go on and make the change later?

Comment (eric-wieser) [reply Mathlib/Data/Set/Subset.lean:66]: Now that #10433 is merged, this lemma probably belongs next to `Subtype.preimage_val_eq_preimage_val_iff` in the `Subtype` namespace (and in the other file).

File: Mathlib/Data/Set/Subset.lean (hunk 45 above)
Comment (eric-wieser) [reply Mathlib/Data/Set/Subset.lean:71]: Now that #10433 is merged, this lemma is a duplicate.

File: Mathlib/Data/Set/Subset.lean (hunk 44 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean:66]: What is the right way to handle the merging of a branch that this depends on? merging main branch into this one? rebase?

Comment (kmill) [reply Mathlib/Data/Set/Subset.lean:66]: Merging the `master` branch should work

File: Mathlib/Data/Set/Subset.lean (hunk 45 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: Fixed.

File: Mathlib/Data/Set/Subset.lean (hunk 44 above)
Comment (miguelmarco) [reply Mathlib/Data/Set/Subset.lean]: I moved that lemma to the `Image` file.

File: Mathlib/Data/Set/Image.lean [hunk 46]
```diff
@@ -1444,6 +1444,14 @@ theorem preimage_val_eq_preimage_val_iff (s t u : Set α) :
   preimage_coe_eq_preimage_coe_iff
 #align subtype.preimage_val_eq_preimage_val_iff Subtype.preimage_val_eq_preimage_val_iff
 
+lemma preimage_val_subset_preimage_val_iff (s t u : Set α):
+    (Subtype.val ⁻¹' t: Set s) ⊆ Subtype.val ⁻¹' u ↔ s ∩ t ⊆ s ∩ u := by
+  constructor
+  · rw [← image_preimage_coe, ← image_preimage_coe]
+    refine image_subset _
+  · intro h x a
+    exact (h ⟨x.2,a⟩).2
```
Comment (kmill) [inline Mathlib/Data/Set/Image.lean:1453]:
```suggestion
lemma preimage_val_subset_preimage_val_iff (s t u : Set α) :
    (Subtype.val ⁻¹' t : Set s) ⊆ Subtype.val ⁻¹' u ↔ s ∩ t ⊆ s ∩ u := by
  constructor
  · rw [← image_preimage_coe, ← image_preimage_coe]
    exact image_subset _
  · intro h x a
    exact (h ⟨x.2, a⟩).2
```

**Comment by kmill** [comment]
Thanks! Creating a new notation for a new concept is a difficult first PR (or really any PR), but I think this is now in a good enough of a state to merge.

bors r+
